US06455559B1
2-(4-aminophenyl)-N-(5-cyclopropyl-1H-pyrazol-3-yl)propanamide
11.8 g (25.26 mmol) of tert-butyl 5-[(2-{4-[(tert-butoxycarbonyl)amino]phenyl}propanoyl)amino]-3-cyclopropyl-1H-pyrazole-1-carboxylate were dissolved in 200 ml of dichloromethane and 30 ml of trifluoroacetic acid were added. After 2.5 hours at room temperature the solvent was evaporated and the residue taken up with dichloromethane and washed with a saturated solution of sodium hydrogenocarbonate. The organic layer was then dried over sodium sulphate and evaporated to dryness, affording 4.7 g (70% yield) of the title compound.

reactant | tert-butyl 5-[(2-{4-[(tert-butoxycarbonyl)amino]phenyl}propanoyl)amino]-3-cyclopropyl-1H-pyrazole-1-carboxylate | 25.26 mmol, 11.8 g | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)C(C(=O)NC1=CC(=NN1C(=O)OC(C)(C)C)C1CC1)C | C25H34N4O5
reactant | trifluoroacetic acid | 30 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 2-(4-aminophenyl)-N-(5-cyclopropyl-1H-pyrazol-3-yl)propanamide | 4.7 g, 70% yield | NC1=CC=C(C=C1)C(C(=O)NC1=NNC(=C1)C1CC1)C | C15H18N4O
